US04098600
α-amino-N-isopropylacetanilide (76.8 g.) was mixed with 97% formic acid, boiling chips added and the mixture refluxed for 2 hours. After cooling to 110° C. and adding toluene, the temperature was again raised to reflux and held for 24 hours. The solvent was then removed and the residue recrystallized from benzene to give α-formamido-N-isopropylacetanilide. To a flask equipped with drying tube was added 55 g. of α-formamido-N-isopropylacetanilide. Triethylamine (126.0 g.) and 400 ml. methylene chloride were then added. The resulting clear solution was cooled to -10° and dropwise addition of POCl3 started (57.5 g.). The temperature was lowered to -10° and continuous addition of sodium carbonate solution (1.0 mole, 106 g.) was commenced, keeping the temperature at 0° or lower. After addition, more water was added and the mixture allowed to stir at room temperature for 30 minutes. The organic layer was separated off, and filtered through MgSO4. The organic layer was then washed with salt water, and again filtered through MgSO4. The material was dried over MgSO4, filtered, and vacuum treated to remove methylene chloride. The residue was recrystallized from ether to give α-isocyano-N-isopropylacetanilide melting at 80°-82° C.

reactant | α-amino-N-isopropylacetanilide | 76.8 g | NCC(=O)N(C1=CC=CC=C1)C(C)C | C11H16N2O
reactant | formic acid | C(=O)O | CH2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | α-formamido-N-isopropylacetanilide | C(=O)NCC(=O)N(C1=CC=CC=C1)C(C)C | C12H16N2O2
